US07579140B2
7.1 Preparation of 3-(5-carboxypentyl)-1-(2-(2-methoxyethoxy)ethyl)-2,3-dimethyl-3H-indolium bromide
To 6-(2,3-dimethyl-3H-indol-3-yl)hexanoic acid (100 mg) was added 1-bromo-2-(2-methoxyethoxy)ethane (1 ml) and the mixture heated to 90° C. overnight. On cooling diethyl ether (10 ml) was added and the material removed by filtration.

reactant | 6-(2,3-dimethyl-3H-indol-3-yl)hexanoic acid | 100 mg | CC1=NC2=CC=CC=C2C1(C)CCCCCC(=O)O | C16H21NO2
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | 1 ml | BrCCOCCOC | C5H11BrO2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-(5-carboxypentyl)-1-(2-(2-methoxyethoxy)ethyl)-2,3-dimethyl-3H-indolium bromide | [Br-].C(=O)(O)CCCCCC1(C(=[N+](C2=CC=CC=C12)CCOCCOC)C)C | InChI=1S/C21H31NO4.BrH/c1-17-21(2,12-8-4-5-11-20(23)24)18-9-6-7-10-19(18)22(17)13-14-26-16-15-25-3;/h6-7,9-10H,4-5,8,11-16H2,1-3H3;1H
